US07956188B2
In a similar procedure to Stage 2 of Example 1, 2-methylthio-2(4-bromo-3,5-dimethylphenoxy)acetic acid was condensed with tert-butylamine to give 2-(4-bromo-3,5-dimethylphenoxy)-2-methylthio-N-(2-methyl-prop-2-yl)acetamide as a colourless solid, m.p. 123-125° C.

reactant | 2-methylthio-2(4-bromo-3,5-dimethylphenoxy)acetic acid | CSC(C(=O)O)OC1=CC(=C(C(=C1)C)Br)C | C11H13BrO3S
reactant | tert-butylamine | C(C)(C)(C)N | C4H11N
product | 2-(4-bromo-3,5-dimethylphenoxy)-2-methylthio-N-(2-methyl-prop-2-yl)acetamide | BrC1=C(C=C(OC(C(=O)NC(C)(C)C)SC)C=C1C)C | C15H22BrNO2S
